US04304899
Preparation of 4,4'-cyclohexylidenediphenol (CDP)
The procedure of Example 1 was repeated, except that 10500 g (111.6 moles) of phenol was substituted for o-cresol. The crude crystals that separated out were rinsed with methylene chloride; after airdrying they weighed 5170 g or 87% of theoretical. Recrystallization from methanol-water yielded pure CDP, mp 188-189° C., that was 99.8% pure by gas chromatography.

reactant | phenol | 111.6 moles, 10500 g | C1(=CC=CC=C1)O | C6H6O
reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
product | 4,4'-cyclohexylidenediphenol | C1(CCCCC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C18H20O2
